US07619100B2
(8E,12E,14E)-3,6,16,21-Tetrakis(1-ethoxyethoxy)-6,10,12,16,20-pentamethyl-7-(4-nitrophenoxy)carboxy-18,19-epoxytricosa-8,12,14-trien-11-olide
To a solution of (8E,12E,14E)-3,6,16,21-tetrakis(1-ethoxyethoxy)-7-hydroxy-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide (139 mg, 0.17 mmol) in dichloromethane (2.5 mL) were added triethylamine (88 mg, 0.87 mmol), N,N-dimethylaminopyridine (64 mg, 0.52 mmol) and 4-nitrophenyl chloroformate (105 mg, 0.52 mmol) under ice cooling, followed by stirring at room temperature under nitrogen atmosphere for one hour. The reaction mixture was diluted with ethyl acetate, and then washed with a saturated aqueous solution of sodium bicarbonate and brine. The organic layer was dried over anhydrous magnesium sulfate, filtrated and evaporated. The resulting residue was purified by silica gel column chromatography (Kanto silica gel 60N, 40 to 100 μm; ethyl acetate:hexane=20:80) to give the title compound (134 mg, 80%) as a colorless oil.

reactant | (8E,12E,14E)-3,6,16,21-tetrakis(1-ethoxyethoxy)-7-hydroxy-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide | 0.17 mmol, 139 mg | C(C)OC(C)OC1CC(=O)OC(C(/C=C/C(C(CC1)(C)OC(C)OCC)O)C)\C(=C\C=C\C(CC1C(C(C(CC)OC(C)OCC)C)O1)(C)OC(C)OCC)\C | C44H78O12
reactant | triethylamine | 0.87 mmol, 88 mg | C(C)N(CC)CC | C6H15N
reactant | 4-nitrophenyl chloroformate | 0.52 mmol, 105 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 2.5 mL | ClCCl | CH2Cl2
product | (8E,12E,14E)-3,6,16,21-Tetrakis(1-ethoxyethoxy)-6,10,12,16,20-pentamethyl-7-(4-nitrophenoxy)carboxy-18,19-epoxytricosa-8,12,14-trien-11-olide | 134 mg, 80% | C(C)OC(C)OC1C(C(=O)OC(C(/C=C/C(C(CC1)(C)OC(C)OCC)OC1=CC=C(C=C1)[N+](=O)[O-])C)\C(=C\C=C\C(CC1C(C(C(CC)OC(C)OCC)C)O1)(C)OC(C)OCC)\C)C(=O)O | C51H81NO16
